US07902400B2
To 10 ml of DMF were added 0.50 g of N-cyclohexylmethyl-3,4,5-trifluorobenzamide and 0.15 g of propargyl alcohol and to the mixture obtained was added 100 mg of sodium hydride at 0° C. The mixture obtained was stirred at room temperature for 2 hours. Then, the reaction mixture was concentrated. The residue was subjected to silica gel column chromatography to obtain 0.49 g of N-cyclohexylmethyl-4-(2-propynyloxy)-3,5-difluorobenzamide (hereinafter, described as the compound 32 of the present invention) represented by the formula:

reactant | N-cyclohexylmethyl-3,4,5-trifluorobenzamide | 0.50 g | C1(CCCCC1)CNC(C1=CC(=C(C(=C1)F)F)F)=O | C14H16F3NO
reactant | propargyl alcohol | 0.15 g | C(C#C)O | C3H4O
reactant | sodium hydride | 100 mg | [H-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N-cyclohexylmethyl-4-(2-propynyloxy)-3,5-difluorobenzamide | 0.49 g | C1(CCCCC1)CNC(C1=CC(=C(C(=C1)F)OCC#C)F)=O | C17H19F2NO2
